US05750540
Synthesis of N-[1-(4-methyl-3-pentenyl)-piperidin-4-yl]-2-cyclobutyl-2-hydroxy-2-phenylacetamide
0.83 g of N-(piperidin-4-yl)-2-cyclobutyl-2-hydroxy-2-phenylacetamide hydrochloride, 0.42 g of 5-bromo-2-methyl-2-pentene, 42 mg of potassium iodide and 1.42 g of anhydrous potassium carbonate were suspended in 25 ml of anhydrous N,N-dimethylformamide, and this suspension was stirred at 70° C. for 3 hours. The reaction mixture was cooled to room temperature, mixed with water, and then extracted with diethyl ether. The organic layer was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the resulting residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=2/1 to 1/4) to obtain 449 mg of the title compound.

reactant | N-(piperidin-4-yl)-2-cyclobutyl-2-hydroxy-2-phenylacetamide hydrochloride | 0.83 g | Cl.N1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCC1)=O
reactant | 5-bromo-2-methyl-2-pentene | 0.42 g | BrCCC=C(C)C | C6H11Br
reactant | potassium iodide | 42 mg | [I-].[K+]
reactant | potassium carbonate | 1.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[1-(4-methyl-3-pentenyl)-piperidin-4-yl]-2-cyclobutyl-2-hydroxy-2-phenylacetamide | 449 mg | CC(=CCCN1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCC1)=O)C | C23H34N2O2
